US09212125B2
6. Preparation of Travoprost /Compound of formula (I)/
463 g of Travoprost acid is dissolved in 2.3 L of 1,3-dimethylimidazolidinone (DMI), and 420 g of K2CO3 and 300 ml of isopropyl iodide are added. The reaction mixture is stirred at 45° C. After the completion of the reaction NaHSO4 solution, water, hexane and ethyl acetate are added. The mixture is shaken, then the phases are separated and the lower, aqueous phase is extracted with hexane:ethyl acetate mixture. The united organic phase is washed with water, dried over Na2SO4, the drying material is filtered off and the solution is evaporated. The product is purified by chromatography on silica gel, using diisopropyl ether, acetone, dichloromethane, isopropanol mixture as eluent.

reactant | Travoprost acid | 463 g | C1[C@@H]([C@@H]([C@H]([C@@H]1O)/C=C/[C@H](COC2=CC=CC(=C2)C(F)(F)F)O)C/C=C\CCCC(=O)O)O | C23H29F3O6
reactant | K2CO3 | 420 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isopropyl iodide | 300 ml | C(C)(C)I | C3H7I
reactant | NaHSO4 | OS(=O)(=O)[O-].[Na+]
solvent | 1,3-dimethylimidazolidinone | 2.3 L | CN1C(N(CC1)C)=O | C5H10N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | Travoprost | CC(C)OC(=O)CCC/C=C\C[C@H]1[C@H](C[C@H]([C@@H]1/C=C/[C@H](COC=2C=CC=C(C2)C(F)(F)F)O)O)O | C26H35F3O6
